US04262004
To a stirred mixture of 4 parts of (2,3-dihydroimidazo[2,1-b]benzothiazol-6-yl)phenylmethanone monohydrochloride, 3 parts of sodium methoxide and 60 parts of methanol are added portionwise 1.5 parts of sodium borohydride. Upon completion, stirring is continued for 5 minutes at reflux temperature. The reaction mixture is cooled and upon the addition of water, the product is allowed to crystallize. It is filtered off and recrystallized from 4-methyl-2-pentanone. The product is filtered off and dried, yielding 0.4 parts of 2,3-dihydro-α-phenylimidazo[2,1-b]benzothiazole-6-methanol; mp. 175.2° C.

reactant | (2,3-dihydroimidazo[2,1-b]benzothiazol-6-yl)phenylmethanone monohydrochloride | Cl.N=1CCN2C1SC1=C2C=C(C=C1)C(=O)C1=CC=CC=C1
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | water | O | H2O
product | 2,3-dihydro-α-phenylimidazo[2,1-b]benzothiazole-6-methanol | C1(=CC=CC=C1)C(O)C=1C=CC2=C(N3C(S2)=NCC3)C1 | C16H14N2OS
